US08557805B2
Ethyl (2E)-2-{[4-{[6-(methoxymethyl)pyridin-3-yl]oxy}-2-(tetrahydro-2H-pyran-4-yloxy)phenyl]hydrazono}propanoate
4-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-2-(tetrahydro-2H-pyran-4-yloxy)aniline (23.4 g) was dissolved in 2N hydrochloric acid (55 mL) and acetonitrile (30 mL), and aqueous solution (70 mL) of sodium nitrite (5.86 g) was added dropwise under ice-cooling. After the completion of the dropwise addition, the reaction mixture was stirred under ice-cooling for 30 min. The reaction mixture was added dropwise to a solution of ethyl 2-methylacetoacetate (10.72 g) and potassium hydroxide (11.2 g) in water (100 mL) and ethanol (100 mL) at −20° C. After stirring at −20° C. for 30 min, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=0:100 to 100:0, volume ratio) to give the title compound (26 g, yield 83%) as a yellow oil.

reactant | 4-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-2-(tetrahydro-2H-pyran-4-yloxy)aniline | 23.4 g | COCC1=CC=C(C=N1)OC1=CC(=C(N)C=C1)OC1CCOCC1 | C18H22N2O4
reactant | sodium nitrite | 70 mL, 5.86 g | N(=O)[O-].[Na+]
reactant | ethyl 2-methylacetoacetate | 10.72 g | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | potassium hydroxide | 11.2 g | [OH-].[K+]
solvent | hydrochloric acid | 2N, 55 mL | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl (2E)-2-{[4-{[6-(methoxymethyl)pyridin-3-yl]oxy}-2-(tetrahydro-2H-pyran-4-yloxy)phenyl]hydrazono}propanoate | 26 g, yield 83% | COCC1=CC=C(C=N1)OC1=CC(=C(C=C1)N\N=C(\C(=O)OCC)/C)OC1CCOCC1 | C23H29N3O6
